US08802864B2
5-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]methyl}-4-[4-(6-hydroxy-2-naphthalenyl)phenyl]-2,4-dihydro-3H-1,2,4-triazol-3-one
A solution of 4-(4-bromophenyl)-5-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]methyl}-2,4-dihydro-3H-1,2,4-triazol-3-one (0.256 mmol) in dioxane (1.5 mL) was treated with (6-hydroxy-2-naphthalenyl)boronic acid (0.281 mmol), dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II)-dichloromethane adduct (10 mg), and 2M aq potassium carbonate (0.767 mmol). The reaction mixture was purged with nitrogen, sealed, and irradiated in a microwave (Biotage Initiator) at 150° C. for 15 min. The reaction mixture was cooled to room temperature and was diluted with water (50 mL). The aqueous layer was acidified to pH˜4 using 1N aq HCl and was extracted with dichloromethane. The aqueous phase was then diluted with brine (50 mL) and extracted with tetrahydrofuran, which was subsequently combined with the dichloromethane organic phase. The resulting organic phase was treated with Si-Thiol (Silicycle, 20 mg), dried over magnesium sulfate, filtered, and concentrated in vacuo. The crude residue was purified by reverse phase HPLC (20-50% acetonitrile w/0.1% TFA/water w/0.1% TFA). The product fractions from the HPLC were combined, adjusted to pH˜5 with the addition of saturated aq sodium bicarbonate, further diluted with brine, and extracted with tetrahydrofuran. The organic layer was dried over magnesium sulfate, filtered, and concentrated in vacuo. The resulting product was purified by reverse phase HPLC (10-40% acetonitrile/water+0.1% NH4OH) to afford the title compound as an amorphous white solid (23%). MS(ES)+ m/e 455.0 [M+H]+.

reactant | 4-(4-bromophenyl)-5-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]methyl}-2,4-dihydro-3H-1,2,4-triazol-3-one | 0.256 mmol | BrC1=CC=C(C=C1)N1C(NN=C1C[C@H]1CN(CC1)C(=O)C1CC1)=O | C17H19BrN4O2
reactant | (6-hydroxy-2-naphthalenyl)boronic acid | 0.281 mmol | OC=1C=C2C=CC(=CC2=CC1)B(O)O | C10H9BO3
reactant | potassium carbonate | 0.767 mmol, 2M | C([O-])([O-])=O.[K+].[K+]
solvent | dioxane | 1.5 mL | O1CCOCC1 | C4H8O2
catalyst | dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloromethane | 10 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].ClCCl
product | 5-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]methyl}-4-[4-(6-hydroxy-2-naphthalenyl)phenyl]-2,4-dihydro-3H-1,2,4-triazol-3-one | 23% | C1(CC1)C(=O)N1C[C@@H](CC1)CC=1N(C(NN1)=O)C1=CC=C(C=C1)C1=CC2=CC=C(C=C2C=C1)O | C27H26N4O3
